US04916149
235 ml of acetic anhydride were added to a suspension of 97.5 g of 2-amino-4-carboxy-N-acetylphenylhydrazine in 450 ml of dichloromethane while stirring. The mixture was stirred at room temperature for 3 hours, then the crystals were filtered by suction, washed with dichloromethane and dried at 60° C. Thus, 101.2 g (86.5%) of 2-acetylamino-4-carboxy-N-acetylphenylhydrazine were obtained, m.p.: 238° C. (with decomposition).

reactant | acetic anhydride | 235 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-amino-4-carboxy-N-acetylphenylhydrazine | 97.5 g | NC1=C(C=CC(=C1)C(=O)O)N(N)C(C)=O | C9H11N3O3
solvent | dichloromethane | 450 ml | ClCCl | CH2Cl2
product | 2-acetylamino-4-carboxy-N-acetylphenylhydrazine | 101.2 g, 86.5% | C(C)(=O)NC1=C(C=CC(=C1)C(=O)O)N(N)C(C)=O | C11H13N3O4
